US08703952B2
8-methyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-1,3,4,5-tetrahydro-thiopyrano[4,3-b]indole
The method was the same as for Dimebon, using tetrahydro-thiopyran-4-one in place of 1-methylpiperid-4-one. The desired product was isolated as a glassy yellow oil (13.1 mg, 8.7% over three steps based on 2-methyl-5-(N-nitroso-2-p-tolylaminoethyl)pyridine starting material) by column chromatography on SiO2, eluting with 4:1 EtOAc/MeOH.

reactant | 2,8-Dimethyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C)CC1 | C21H25N3
reactant | tetrahydro-thiopyran-4-one | S1CCC(CC1)=O | C5H8OS
product | 8-methyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-1,3,4,5-tetrahydro-thiopyrano[4,3-b]indole | CC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCSC3 | C20H22N2S
